US07176310B1
J. [4-[4-(4-Bromophenyl)-4-hydroxypiperidin-1-yl]-5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid methyl ester
To a solution of 4-[4-(4-bromophenyl)-4-hydroxy-piperidin-1-yl]-2-methylsulfanylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide (700 mg, 1.35 mmol) in acetone (50 mL) was added m-CPBA (330 mg, 1.49 mmol) and the mixture was stirred for 12 h. The mixture was concentrated under reduced pressure and the intermediate product was isolated by trituration from a mixture of hexanes and dichloromethane (1:1, 25mL). This afforded 534 mg of the intermediate product as a mixture of sulfoxide and sulfone. Said intermediate product was used hereinafter without further purification. To a solution of the sulfone/sulfoxide mixture (150 mg, 0.28 mmol) in THF (10 mL) was added DBU (200 mL) followed by methyl glycolate (50 mg, 0.56 mmol). The mixture was heated at reflux for 12 h. The mixture was poured into water and extracted with ethyl acetate (3×25 mL). The combined extracts were washed with water and brine and were dried over magnesium sulfate. Filtration and concentration afforded a white solid which was purified via recrystallization from hexane and dichloromethane (10:1). The afforded 125 mg of the titled product.

reactant | 4-[4-(4-bromophenyl)-4-hydroxy-piperidin-1-yl]-2-methylsulfanylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 1.35 mmol, 700 mg | FC1=CC=C(C=C1)NC(=O)C=1C(=NC(=NC1)SC)N1CCC(CC1)(O)C1=CC=C(C=C1)Br | C23H22BrFN4O2S
reactant | m-CPBA | 1.49 mmol, 330 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | DBU | 200 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | methyl glycolate | 0.56 mmol, 50 mg | C(CO)(=O)OC | C3H6O3
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | [4-[4-(4-Bromophenyl)-4-hydroxypiperidin-1-yl]-5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid methyl ester | COC(COC1=NC=C(C(=N1)N1CCC(CC1)(O)C1=CC=C(C=C1)Br)C(NC1=CC=C(C=C1)F)=O)=O | C25H24BrFN4O5
